US07858784B2
Synthesis of 2,5-dimethyl-N-(3-(trifluoromethyl)phenyl)aniline (FIG. 12, Table 8, Entry 6)
Following general procedure E, a mixture of 2-chloro-p-xylene (134 μL, 1.0 mmol), 3-(trifluoromethyl)aniline (150 μL, 1.2 mmol), NaOt-Bu (115 mg, 1.2 mmol), 10 (0.08 mg, 0.01 mol %), 1 (0.05 mg, 0.01 mol %), and Bu2O (1 mL) was heated to 110° C. for 1 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-30% EtOAc/hexanes) to provide the title compound as a clear oil (248 mg, 94%). 1H NMR (300 MHz, CDCl3) δ: 7.38 (t, J=8.0 Hz, 1H), 7.22 (d, J=8.0 Hz, 1H), 7.16 (m, 3H), 7.08 (d, J=8.0 Hz, 1H), 6.95 (d, J=8.0 Hz, 1H), 5.53 (s, 1H), 2.39 (s, 3H), 2.28 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 145.5, 139.8, 137.1, 132.6, 132.2, 131.8, 131.8, 131.4, 130.1, 130.0, 127.5, 126.4, 124.9, 124.9, 124.8, 122.8, 122.1, 122.0, 119.2, 119.1, 116.3, 116.3, 112.8, 21.4, 17.7 ppm. IR (neat, cm−1): 3391, 3021, 2924, 1613, 1485, 1337, 1165, 1124, 787, 699. Anal. Calcd. for C15H14F3N: C, 67.91; H, 5.32. Found: C, 68.02; H, 5.31.

reactant | 2-chloro-p-xylene | 1.0 mmol, 134 μL | ClC1=C(C=CC(=C1)C)C | C8H9Cl
reactant | 3-(trifluoromethyl)aniline | 1.2 mmol, 150 μL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | NaOt-Bu | 1.2 mmol, 115 mg | CC(C)(C)[O-].[Na+]
reactant | Bu2O | 1 mL | O(CCCC)CCCC | C8H18O
product | 2,5-dimethyl-N-(3-(trifluoromethyl)phenyl)aniline | 248 mg, 94% | CC1=C(NC2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)C | C15H14F3N
